US04129653
1,2-Dicarbethoxypyrrolo[1,2-c]quinazoline
A solution of ethyl bromopyruvate (8.0 g, 0.1041 m) and ethyl 4-quinazolylacetate prepared according to the procedure of Elderfield and Serlin, J. Org. Chem. 16, 1669 (1951) (2.32 g, 0.011 m) in dry EtOH (250 ml) was heated at reflux for 24 hr. Sodium bicarbonate was added until effervescence ceased. A solid formed and this was filtered, washed well with H2O, and dried. The crude product (1.8 g) was chromatographed on 150 g of Silicar. The desired product was eluted with 3% EtOAc/benzene. Crystallization from MeOH afforded the desired product as a white solid; m.p. 125°-126° C.

reactant | ethyl bromopyruvate | 8.0 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | ethyl 4-quinazolylacetate | N1=CN=C(C2=CC=CC=C12)CC(=O)OCC | C12H12N2O2
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | EtOH | 250 ml | CCO | C2H6O
product | 1,2-Dicarbethoxypyrrolo[1,2-c]quinazoline | C(=O)(OCC)C=1C(=CN2C=NC=3C=CC=CC3C21)C(=O)OCC | C17H16N2O4
